US07977344B2
N2-Butyl-8-(methyloxy)-9-[4-(tetrahydro-3-furanyl)butyl]-9H-purine-2,6-diamine
Prepared similarly to Intermediate 216 from N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate and 3-(4-bromobutyl)tetrahydrofuran.

reactant | N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N
reactant | 3-(4-bromobutyl)tetrahydrofuran | BrCCCCC1COCC1 | C8H15BrO
product | N2-Butyl-8-(methyloxy)-9-[4-(tetrahydro-3-furanyl)butyl]-9H-purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCCC1COCC1)OC)N | C18H30N6O2
